US09359286B2
Intermediate 3: (5R,7S)-7-(4-Bromophenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one
To a mixture of ((1R,3S)-1-amino-3-(4-bromophenyl)cyclopentyl)methanol (11 g, 40.7 mmol) and pyridine (I-3A, 3.29 mL, 40.7 mmol) in dioxane (300 mL) was added 1,1′-carbonyldiimidazole (19.81 g, 122 mmol). The reaction mixture was stirred for 4 hours. The reaction mixture was diluted with ethyl acetate and washed with 1M HCl, brine and saturated NaHCO3. The mixture was back extracted several times. The organic layer was dried with MgSO4, filtered and concentrated to afford 10.5 g of desired product as an off-white solid. HPLC retention time=0.87 min (Condition G). LC/MS M+1=297.9; 1H NMR (400 MHz, chloroform-d) δ 7.45 (d, J=8.6 Hz, 2H), 7.12 (d, J=8.4 Hz, 2H), 6.42 (br. s., 1H), 4.41-4.21 (m, 2H), 3.17-2.91 (m, 1H), 2.34 (dd, J=13.3, 7.4 Hz, 1H), 2.23-2.11 (m, 2H), 2.01-1.90 (m, 2H), 1.88-1.74 (m, 1H).

reactant | ((1R,3S)-1-amino-3-(4-bromophenyl)cyclopentyl)methanol | 40.7 mmol, 11 g | N[C@]1(C[C@H](CC1)C1=CC=C(C=C1)Br)CO | C12H16BrNO
reactant | pyridine | 40.7 mmol, 3.29 mL | N1=CC=CC=C1 | C5H5N
reactant | 1,1′-carbonyldiimidazole | 122 mmol, 19.81 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5R,7S)-7-(4-Bromophenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one | 10.5 g | BrC1=CC=C(C=C1)[C@@H]1C[C@@]2(COC(N2)=O)CC1 | C13H14BrNO2
